### PR TITLE
feat(ErdosProblems): 43

### LINKED ISSUE #221: Erdős Problem 43
### What is the conjecture
    
https://www.erdosproblems.com/43

  If $A,B\subset \{1,\ldots,N\}$ are two Sidon sets such that $(A-A)\cap(B-B)=\{0\}$ then is it true that 
$$\binom{\lvert A\rvert}{2}+\binom{\lvert B\rvert}{2}\leq\binom{f(N)}{2}+O(1) $$,
where $f(N)$ is the maximum possible size of a Sidon set in $\{1,\ldots,N\}$? If $\lvert A\rvert=\lvert B\rvert$ then can this bound be improved to

$$\binom{\lvert A\rvert}{2}+\binom{\lvert B\rvert}{2}\leq (1-c)\binom{f(N)}{2}$$
for some constant $c>0$?

Status: open

### Prerequisites needed
None, Sidon sets is already in `ForMathlib`

### PR DESCRIPTION
**Pull request by Krishn1412**
Proposed formal conjecture for Erdos problem 43.

Closes [Issue 221](https://github.com/google-deepmind/formal-conjectures/issues/221)

### CODE REVIEW

File: FormalConjectures/ErdosProblems/43.lean [hunk 1]
```diff
@@ -0,0 +1,81 @@
...
+-/
+@[category research open, AMS 11 05]
+theorem erdos_43 :
+    ∃ C : ℝ, ∀ (N : ℕ) (A B : Finset ℕ),
+      A ⊆ Finset.Icc 1 N →
+      B ⊆ Finset.Icc 1 N →
+      IsSidon A.toSet →
+      IsSidon B.toSet →
+      (A ×ˢ A).image (λ p => p.1 - p.2) ∩
+        (B ×ˢ B).image (λ p => p.1 - p.2) = ∅ →
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/43.lean]: if you write 
`open scoped Pointwise`
above, this can just be 
`(A - A) ∩ (B - B) = ∅`

File: FormalConjectures/ErdosProblems/43.lean [hunk 2]
```diff
@@ -0,0 +1,81 @@
...
+\]
+for some constant `c > 0`?
+
+Find the link to the problem [here](https://www.erdosproblems.com/43).
+
+-/
+
+/-- The maximum size of a Sidon set in `{1, ..., N}`. -/
+noncomputable def maxSidonSetSize (N : ℕ) : ℕ :=
+  sSup {n | ∃ A : Finset ℕ, A ⊆ Finset.Icc 1 N ∧ IsSidon A.toSet ∧ A.card = n}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/43.lean]: Perhaps one could make this computable with something like:
```
instance: DecidablePred fun A : Finset ℕ ↦ IsSidon A.toSet := by
  unfold IsSidon
  unfold DecidablePred
  intro A
  simp [Decidable]
  infer_instance

def SidonSubsetsSizes (n : ℕ) :=
  Finset.image Finset.card <| (Finset.Icc 1 n).powerset.filter (fun (A : Finset ℕ) => IsSidon A.toSet)

lemma SidonSubsetsSizesNonempty (n : ℕ) : (SidonSubsetsSizes n).Nonempty:= by
  use 0
  unfold SidonSubsetsSizes
  unfold IsSidon
  aesop

def maxSidonSetSize' (n : ℕ) := (SidonSubsetsSizes n).max' (SidonSubsetsSizesNonempty n)
```

All of this should then go into `FormalConjectures/ForMathlib/Combinatorics/Basic.lean`

File: FormalConjectures/ErdosProblems/43.lean [hunk 3]
```diff
@@ -0,0 +1,81 @@
...
+
+Furthermore, if `|A| = |B|`, can this be improved to
+\[
+\binom{|A|}{2} + \binom{|B|}{2} ≤ (1 - c) \binom{f(N)}{2}
+\]
+for some constant `c > 0`?
+
+Find the link to the problem [here](https://www.erdosproblems.com/43).
+
+-/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/43.lean:23]:
```suggestion
/-!
# Erdős Problem 43

*Reference:* [erdosproblems.com/43](https://www.erdosproblems.com/43)
-/

This is the usual format, and we typically don't repeat the problem statement.

```

**Review by mo271 — APPROVED** [review]
Thanks for the contribution!

File: FormalConjectures/ErdosProblems/43.lean [hunk 4]
```diff
@@ -0,0 +1,62 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjectures.ForMathlib.Combinatorics.Basic
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/43.lean]: Is this import necessary? It should already be included in the `FormalConjectures.Util.ProblemImports` import.

File: FormalConjectures/ForMathlib/Combinatorics/Basic.lean [hunk 5]
```diff
@@ -38,3 +41,23 @@ lemma Set.IsAPOfLength.card (s : Set α) (l : ℕ∞) (hs : s.IsAPOfLength l) :
...
+/-- All subset sizes of Sidon sets in `{1, ..., n}`. -/
+def SidonSubsetsSizes (n : ℕ) : Finset ℕ :=
+  Finset.image Finset.card <| (Finset.Icc 1 n).powerset.filter (λ A => IsSidon A.toSet)
+
+lemma SidonSubsetsSizesNonempty (n : ℕ) : (SidonSubsetsSizes n).Nonempty := by
+  use 0
+  simp [SidonSubsetsSizes]
+
+def maxSidonSetSize' (n : ℕ) : ℕ :=
+  (SidonSubsetsSizes n).max' (SidonSubsetsSizesNonempty n)
```
Comment (callesonne) [inline FormalConjectures/ForMathlib/Combinatorics/Basic.lean]:
```suggestion
def maxSidonSetSize (n : ℕ) : ℕ :=
  (SidonSubsetsSizes n).max' (SidonSubsetsSizesNonempty n)
```
I would use the name without the prime, since `SidonSubsetsSizes` is always nonempty anyways, so there is no need to distinguish (`Finset.max` takes values in `WithBot ℕ` where the empty set is given the bottom value).

File: FormalConjectures/ErdosProblems/43.lean [hunk 6]
```diff
@@ -0,0 +1,62 @@
...
+# Erdős Problem 43
+*Reference:* [erdosproblems.com/43](https://www.erdosproblems.com/43)
+
+-/
+
+open scoped Pointwise
+
+/-- The maximum size of a Sidon set in `{1, ..., N}`. This version is computable. -/
+def maxSidonSetSize := maxSidonSetSize'
+
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/43.lean:28]:
```suggestion

```
Given my other comment below.

File: FormalConjectures/ErdosProblems/43.lean [hunk 7]
```diff
@@ -0,0 +1,62 @@
...
+@[category research open, AMS 11 05]
+theorem erdos_43 :
+    ∃ C : ℝ, ∀ (N : ℕ) (A B : Finset ℕ),
+      A ⊆ Finset.Icc 1 N →
+      B ⊆ Finset.Icc 1 N →
+      IsSidon A.toSet →
+      IsSidon B.toSet →
+      (A - A) ∩ (B - B) = ∅ →
+      ((A.card * (A.card - 1) + B.card * (B.card - 1)) / 2 : ℝ) ≤
+        (maxSidonSetSize N * (maxSidonSetSize N - 1) / 2 : ℝ) + C := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/43.lean]:
```suggestion
      A.card.choose 2 + B.card.choose 2 ≤ (maxSidonSetSize N).choose 2 + C := by
```

File: FormalConjectures/ErdosProblems/43.lean [hunk 8]
```diff
@@ -0,0 +1,62 @@
...
+theorem erdos_43_equal_size :
+    ∃ c : ℝ, 0 < c ∧ ∀ (N : ℕ) (A B : Finset ℕ),
+      A ⊆ Finset.Icc 1 N →
+      B ⊆ Finset.Icc 1 N →
+      IsSidon A.toSet →
+      IsSidon B.toSet →
+      A.card = B.card →
+      (A - A) ∩ (B - B) = ∅ →
+      ((A.card * (A.card - 1) + B.card * (B.card - 1)) / 2 : ℝ) ≤
+        (1 - c) * (maxSidonSetSize N * (maxSidonSetSize N - 1) / 2 : ℝ) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/43.lean]:
```suggestion
      A.card.choose 2 + B.card.choose 2 ≤ (1 - c) *(maxSidonSetSize N).choose 2 := by
```

File: FormalConjectures/ErdosProblems/43.lean [hunk 9]
```diff
@@ -0,0 +1,62 @@
...
+        (maxSidonSetSize N * (maxSidonSetSize N - 1) / 2 : ℝ) + C := by
+  sorry
+
+/--
+If `A` and `B` are equal-sized Sidon sets with disjoint difference sets,
+can the sum of pair counts be bounded by a strict fraction of the optimum?
+-/
+@[category research open, AMS 11 05]
+theorem erdos_43_equal_size :
+    ∃ c : ℝ, 0 < c ∧ ∀ (N : ℕ) (A B : Finset ℕ),
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/43.lean]:
```suggestion
    ∃ᵉ (c > 0), ∀ (N : ℕ) (A B : Finset ℕ),
```
making it more compact.

**Review by callesonne — COMMENTED** [review]
Thanks for your contribution! Here are some comments :)

**Comment by Krishn1412** [comment]
Hey @mo271, could you help me out on why this is failing? Any pointers would be great, TIA!

File: FormalConjectures/ForMathlib/Combinatorics/Basic.lean [hunk 10]
```diff
@@ -15,16 +15,37 @@ limitations under the License.
...
 variable {α : Type*} [AddCommMonoid α]
 
-/-- A Sidon set is a set, such that such that all pairwise sums of elements are distinct apart from
-coincidences forced by the commutativity of addition. -/
+/-- A Sidon set is a set such that all pairwise sums of elements are distinct,
+apart from coincidences forced by commutativity. -/
 def IsSidon (A : Set α) : Prop := ∀ᵉ (i₁ ∈ A) (j₁ ∈ A) (i₂ ∈ A) (j₂ ∈ A),
   i₁ + i₂ = j₁ + j₂ → (i₁ = j₁ ∧ i₂ = j₂) ∨ (i₁ = j₂ ∧ i₂ = j₁)
 
 lemma IsSidon.avoids_isAPOfLength_three {α : Type*} [AddCommMonoid α] (A : Set ℕ) (hA : IsSidon A) :
```
Comment (Paul-Lez) [inline FormalConjectures/ForMathlib/Combinatorics/Basic.lean]: One small comment: we try to avoid having sorries lemmas in ForMathlib. I would suggest either proving it or adding it as a statement in the other file you added (with the `category API` attribute)

**Review by Paul-Lez — COMMENTED** [review]
One minor comment - I'll try to diagnose the build issue once I'm back in front of a computer:)

**Comment by mo271** [comment]
> Hey @mo271, could you help me out on why this is failing? Any pointers would be great, TIA!

seems like there were some problems in `ForMathlib/Combinatorics/Basic.lean`, starting with a failing import. 
Should be something like this:

```lean
import FormalConjectures.ForMathlib.Combinatorics.AP.Basic
import Mathlib.Combinatorics.Enumerative.Bell
import Mathlib.Combinatorics.SimpleGraph.Finite

open Function Set

variable {α : Type*} [AddCommMonoid α]

/-- A Sidon set is a set such that all pairwise sums of elements are distinct,
apart from coincidences forced by commutativity. -/
def IsSidon (A : Set α) : Prop := ∀ᵉ (i₁ ∈ A) (j₁ ∈ A) (i₂ ∈ A) (j₂ ∈ A),
  i₁ + i₂ = j₁ + j₂ → (i₁ = j₁ ∧ i₂ = j₂) ∨ (i₁ = j₂ ∧ i₂ = j₁)

lemma IsSidon.avoids_isAPOfLength_three {α : Type*} [AddCommMonoid α] (A : Set ℕ) (hA : IsSidon A) :
    (∀ Y, IsAPOfLength Y 3 → (A ∩ Y).ncard ≤ 2) := by
  sorry

noncomputable instance IsSidon.decide [AddCommMonoid α] (s : Set α): Decidable (IsSidon s) := by
  exact Classical.propDecidable _

/-- The subsets of `{0, ..., n - 1}` which are Sidon sets. -/
noncomputable def SidonSubsets (n : ℕ) : Finset (Finset ℕ) :=
  (Finset.range n).powerset.filter fun s => IsSidon (s : Set ℕ)

/-- The sizes of Sidon subsets of `{0, ..., n - 1}`. -/
noncomputable def SidonSubsetsSizes (n : ℕ) : Finset ℕ :=
  (SidonSubsets n).image Finset.card

lemma SidonSubsetsSizesNonempty (n : ℕ) : (SidonSubsetsSizes n).Nonempty := by
  use 0
  simp only [SidonSubsetsSizes, Finset.mem_image]
  use ∅
  simp [SidonSubsets, IsSidon, Set.Pairwise, Finset.mem_filter, Finset.mem_powerset, Finset.card_empty]

/-- The maximum size of a Sidon subset of `{0, ..., n - 1}`. -/
noncomputable def maxSidonSetSize (n : ℕ) : ℕ :=
  (SidonSubsetsSizes n).max' (SidonSubsetsSizesNonempty n)
  ```

**Comment by mo271** [comment]
@Krishn1412 Thanks for reacting to the comments and updating the pr! It would make the review easier if you resolved the comments that are already addressed.

**Comment by Krishn1412** [comment]
Sure @mo271

**Comment by mo271** [comment]
@Krishn1412 in the meantime some definitions around `Sidon` have changed. Would you be able to integrate the pull request into the new `FormalConjectures/ForMathlib/Combinatorics/Basic.lean` or shall I?

**Comment by Krishn1412** [comment]
Sure, I will update the PR. I was wondering if you found the issue causing the build failure.

File: FormalConjectures/ForMathlib/Combinatorics/Basic.lean [hunk 11]
```diff
@@ -23,17 +25,39 @@ open Function Set
...
+
+/-- The subsets of `{0, ..., n - 1}` which are Sidon sets. -/
+noncomputable def SidonSubsets (n : ℕ) : Finset (Finset ℕ) :=
+  (Finset.range n).powerset.filter fun s => IsSidon (s : Set ℕ)
+
+/-- The sizes of Sidon subsets of `{0, ..., n - 1}`. -/
+noncomputable def SidonSubsetsSizes (n : ℕ) : Finset ℕ :=
+  (SidonSubsets n).image Finset.card
+
+lemma SidonSubsetsSizesNonempty (n : ℕ) : (SidonSubsetsSizes n).Nonempty := by
```
Comment (mo271) [inline FormalConjectures/ForMathlib/Combinatorics/Basic.lean]:
```suggestion
lemma SidonSubsetsSizes_nonempty (n : ℕ) : (SidonSubsetsSizes n).Nonempty := by
```
I think since this is a lemma we would use small caps here?

File: FormalConjectures/ErdosProblems/43.lean [hunk 12]
```diff
@@ -0,0 +1,57 @@
...
+is the sum of unordered pair counts bounded by that of an optimal Sidon set up to `O(1)`?
+-/
+@[category research open, AMS 11 05]
+theorem erdos_43 :
+    ∃ C : ℝ, ∀ (N : ℕ) (A B : Finset ℕ),
+      A ⊆ Finset.Icc 1 N →
+      B ⊆ Finset.Icc 1 N →
+      IsSidon A.toSet →
+      IsSidon B.toSet →
+      (A - A) ∩ (B - B) = ∅ →
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/43.lean]:
```suggestion
      (A - A) ∩ (B - B) = {0} →
```
In both `A - A` and `B-B`, there will always be `0`, if both sets are nonempty.

File: FormalConjectures/ErdosProblems/43.lean [hunk 13]
```diff
@@ -0,0 +1,57 @@
...
+
+*Reference:* [erdosproblems.com/43](https://www.erdosproblems.com/43)
+-/
+
+open scoped Pointwise
+
+
+/--
+If `A` and `B` are Sidon sets in `{1, ..., N}` with disjoint difference sets,
+is the sum of unordered pair counts bounded by that of an optimal Sidon set up to `O(1)`?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/43.lean]:
```suggestion
If `A` and `B` are Sidon sets in `{1, ..., N}` with disjoint difference sets such that $(A-A)\cap(B-B)=\{0\}$ 
then is it true that 
$$\binom{\lvert A\rvert}{2}+\binom{\lvert B\rvert}{2}\leq\binom{f(N)}{2}+O(1),$$
where $f(N)$ is the maximum possible size of a Sidon set in \{1,\ldots,N\}?
```

Better to stick to the original formulation.

File: FormalConjectures/ErdosProblems/43.lean [hunk 14]
```diff
@@ -0,0 +1,57 @@
...
+-/
+@[category research open, AMS 11 05]
+theorem erdos_43 :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/43.lean]: since this is phrased as a questions, we should wrap the entire statement in parenthesis and write `↔ answer(sorry) `

File: FormalConjectures/ErdosProblems/43.lean [hunk 15]
```diff
@@ -0,0 +1,57 @@
...
+theorem erdos_43_equal_size :
+    ∃ᵉ (c > 0), ∀ (N : ℕ) (A B : Finset ℕ),
+      A ⊆ Finset.Icc 1 N →
+      B ⊆ Finset.Icc 1 N →
+      IsSidon A.toSet →
+      IsSidon B.toSet →
+      A.card = B.card →
+      (A - A) ∩ (B - B) = ∅ →
+      A.card.choose 2 + B.card.choose 2 ≤ (1 - c) *(maxSidonSetSize N).choose 2 := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/43.lean]: same comments as to the first theorem apply here.

**Comment by mo271** [comment]
> Sure, I will update the PR. I was wondering if you found the issue causing the build failure.

@Krishn1412 I updated the PR and fixed the issue causing the build failure.

**Comment by mo271** [comment]
are you still working on this, @Krishn1412 ?

**Review by Paul-Lez — APPROVED** [review]
